US08334299B2
A stirred solution of 13 g (0.0756 mol) 1,2,3,4-tetrahydro-β-carboline, produced of tryptamine hydrochloride and glyoxal acid, as described by Ho and Walker (1988), and 2.6 g of Pd/C (10%) in 600 ml cumene were refluxed under nitrogen atmosphere for 90 minutes. After adding 100 ml ethanol the heated solution was filtered and the carbon was extracted with 3×30 ml heated ethanol. The combined liquid fractions were concentrated and the remainder crystallized from toluene for obtaining 10.5 g (82%) of norharman. The methylation in position 9 was carried out as described in literature (Ho B T, McIsaac W M, Walker K E, Estevez V, J Pharm Sci 57: 269, 1968), but with an improved processing: 1 g (5.95 mmol) of norharman was dissolved in 10 ml dry DMF under nitrogen atmosphere. Then 0.36 g (14.9 mmol) sodium hydride was added as a 60% dispersion in petroleum at 0° C. After the mixture cooled down to room temperature it was cooled down to −10° C. and 0.84 g (5.95 mmol) methyl iodide were added. After continued stirring for 12 hours, the mixture was again cooled down to room temperature. All volatile components were removed under reduced pressure. Then 100 ml of water were added and the mixture was extracted with 3×50 ml CHCl3. The combined organic fractions were washed with 5×20 ml water and concentrated for drying. The remainder was transferred into 100 ml of 2N hydrochloric acid. To isolate the educt of the desired methylated product an ion pair extraction of the HCl salt was carried out in CHCl3 and in a liquid/liquid extractor for 2 days. After removing the solvent 0.7 g (64%) of yellow crystals of 9-methyl-β-carboliniumhydrochloride were obtained.

reactant | tryptamine hydrochloride | Cl.NCCC1=CNC2=CC=CC=C12
reactant | glyoxal | C(=O)C=O | C2H2O2
product | 1,2,3,4-tetrahydro-β-carboline | 0.0756 mol, 13 g | C1NCCC=2C3=CC=CC=C3NC12 | C11H12N2
